US07320995B2
B. 4-formyl-N-methyl-benzenesulfonamide
Add 4-hydroxymethyl-N-methyl-benzenesulfonamide (0.28 g) to a mixture of manganese dioxide (2.8 g) in 20 mL of dichloromethane. Stir at room temperature overnight and filter over Celite®. Concentrate under reduced pressure to provide (0.11 g, 40%) of the title compound as oil.

reactant | 4-hydroxymethyl-N-methyl-benzenesulfonamide | 0.28 g | OCC1=CC=C(C=C1)S(=O)(=O)NC | C8H11NO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 2.8 g | [O-2].[O-2].[Mn+4]
product | 4-formyl-N-methyl-benzenesulfonamide | 0.11 g, 40% | C(=O)C1=CC=C(C=C1)S(=O)(=O)NC | C8H9NO3S
